US07767683B2
Synthesis of 3,3,4-trimethylpiperazin-2-one
3,3-dimethylpiperazin-2-one (50 grams) is suspended in 1,2-dimethoxyethane (DME) (150 ml) and potassium carbonate (70 grams) is added. Methyl iodide (66.4 grams) is added during half an hour, while the mixture is cooled slightly, allowing the temperature to reach 50° C. The mixture is stirred 9 hours at an oil bath at 40-45° C., and a sample is withdrawn for NMR, which indicates, that there is still 8% starting material left (signal at 2.8 ppm). More methyl iodide is added (4.6 grams), and the mixture is stirred for another 2½ hour at 40° C., and a new NMR sample shows full conversion. The mixture is filtered, and the filter cake is washed with DME. The filtrate is evaporated to dryness giving 41 grams of the title compound. NMR complies with the structure.

reactant | 3,3-dimethylpiperazin-2-one | 50 grams | CC1(C(NCCN1)=O)C | C6H12N2O
reactant | potassium carbonate | 70 grams | C([O-])([O-])=O.[K+].[K+]
reactant | Methyl iodide | 66.4 grams | CI | CH3I
solvent | 1,2-dimethoxyethane | 150 ml | COCCOC | C4H10O2
product | 3,3,4-trimethylpiperazin-2-one | 41 grams | CC1(C(NCCN1C)=O)C | C7H14N2O
